US04091220
A mixture of 0.56 part of 2-amino-3,5-dibromobenzylalcohol, 1.0 part of N-methyl piperazine and 2 parts of propionic acid is heated at 140° C for 8 hours under stirring. Then, the propionic acid is distilled off under reduced pressure. The residue is extracted with chloroform. The chloroform layer is washed with water and dried over sodium sulfate. Evaporation of the solvent gives oily residue. The residue is chromotographed over silica gel. Ethyl acetate eluates are treated with ethanolic hydrochloric acid. This procedure gives N1 -methyl-N4 -(2-amino-3,5-dibromobenzyl)piperazine hydrochloride melting at 182° to 185° C.

reactant | 2-amino-3,5-dibromobenzylalcohol | NC1=C(CO)C=C(C=C1Br)Br | C7H7Br2NO
reactant | N-methyl piperazine | CN1CCNCC1 | C5H12N2
reactant | propionic acid | C(CC)(=O)O | C3H6O2
reactant | hydrochloric acid | Cl | ClH
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N1 -methyl-N4 -(2-amino-3,5-dibromobenzyl)piperazine hydrochloride | Cl.CN1CCN(CC1)CC1=C(C(=CC(=C1)Br)Br)N | InChI=1S/C12H17Br2N3.ClH/c1-16-2-4-17(5-3-16)8-9-6-10(13)7-11(14)12(9)15;/h6-7H,2-5,8,15H2,1H3;1H
